US05905088
(b) Preparation of methyl 5-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)-acetyl]-3-thiophenecarboxylate
A solution of 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol (4 g, 12.1 mmol), methyl 5-bromoacetyl-3-thiophenecarboxylate (3.18 g, 12.1 mmol) and potassium carbonate (1.84 g, 13.3 mmol) in methyl ethyl ketone (100 ml), was heated under reflux for 4 h. The reaction medium was filtered and then concentrated in a rotary evaporator. The mixture was extracted with ethyl ether. The organic phase was washed with water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 12.1 mmol, 4 g | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19IO
reactant | methyl 5-bromoacetyl-3-thiophenecarboxylate | 12.1 mmol, 3.18 g | BrCC(=O)C1=CC(=CS1)C(=O)OC | C8H7BrO3S
reactant | potassium carbonate | 13.3 mmol, 1.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | methyl 5-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)-acetyl]-3-thiophenecarboxylate | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC(=O)C1=CC(=CS1)C(=O)OC | C22H25IO4S
